US04394515
Dibenzo[b,f]thiepin-3-carboxylic Acid
2.0 G. 3-cyanodibenzo[b,f]thiepin are refluxed in a mixture of 25 cc. concentrated HCl and 25 cc. glacial acetic acid for 19 hours; the acid separates from the hot solution. After cooling, the mixture is diluted with water and the light yellow solid is filtered and washed well with water. The yield of dibenzo[b,f]thiepin-3-carboxylic acid is 2.07 g. (95.8%), m.p. 251° C.-254° C.

reactant | 3-cyanodibenzo[b,f]thiepin | C(#N)C=1C=CC2=C(SC3=C(C=C2)C=CC=C3)C1 | C15H9NS
reactant | HCl | Cl | ClH
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | Dibenzo[b,f]thiepin-3-carboxylic Acid | C1=CC(=CC=2SC3=C(C=CC21)C=CC=C3)C(=O)O | C15H10O2S
